US04554013
Preparation of N-(1-carbamoyl-1,2-dimethylpropyl)-p-toluamide
A stirred mmixture containing 13.0 g (0.10 mol) of 2-amino-2,3-dimethylbutyramide and 15.3 mL (0.11 mole) of triethylamine in 150 mL of dry THF is treated dropwise at 5° to 10° C. with a solution of 15.5 g (0.10 mol) of p-toluoyl chloride in 25 mL dry THF. After being allowed to warm to ambient temperatures over a 16 hour period, the reaction mixture is treated with 50 mL water and stirred for one hour. The resulting three phases are filtered; the filtrate is separated and the aqueous phase is extracted with 150 mL ethyl acetate. All organic phases are combined, washed with 100 mL of a saturated NaCl solution, dried over magnesium sulfate and concentrated in vacuo. A white solid residue is obtained which weighs 17.3 g, mp 145°-152° C. The nmr spectrum is consistent with the desired structure.

reactant | 2-amino-2,3-dimethylbutyramide | 0.10 mol, 13.0 g | NC(C(=O)N)(C(C)C)C | C6H14N2O
reactant | triethylamine | 0.11 mole, 15.3 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluoyl chloride | 0.10 mol, 15.5 g | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | water | 50 mL | O | H2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N-(1-carbamoyl-1,2-dimethylpropyl)-p-toluamide | C(N)(=O)C(C(C)C)(C)NC(=O)C1=CC=C(C=C1)C | C14H20N2O2
